US05770595
Dimethylsulfoxide (0.18 ml, 2.5 mmol) was added slowly by syringe to a stirring solution of oxalyl chloride (0.11 ml, 1.3 mmol) in dichloromethane (5 ml) at -780° C. After 2 minutes, a solution of 1-(11-octyloxy-10-hydroxyundecyl)-3,7-dimethylxanthine, prepared above (0.5 g, 1.0 mmol) in dichloromethane (15 ml) was added dropwise over 5 minutes. Stirring was continued at -78° C. for 45 minutes . Triethylamine (0.72 ml, 5.2 mmol) was added and the cold bath subsequently removed. After 20 minutes, water (25 ml) was added and the mixture was extracted with dichloromethane (3×50 ml). The combined organic extracts were washed with saturated aqueous sodium bicarbonate (20 ml) and saturated aqueous salt solution (20 ml), and then dried over sodium sulfate. The solvents were evaporated under vacuum to give a thick oil which was purified by chromatography (silica/dichloromethane-5% methanol) to obtain 205 mg of 1-(11-octyloxy-10-oxoundecyl)-3,7-dimethylxanthine (43% yield).

reactant | Dimethylsulfoxide | 2.5 mmol, 0.18 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.3 mmol, 0.11 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(11-octyloxy-10-hydroxyundecyl)-3,7-dimethylxanthine | C(CCCCCCC)OCC(CCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)O | C26H46N4O4
reactant | Triethylamine | 5.2 mmol, 0.72 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-(11-octyloxy-10-oxoundecyl)-3,7-dimethylxanthine | 205 mg, 43% yield | C(CCCCCCC)OCC(CCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)=O | C26H44N4O4
